* Z:\celera\projects\Simplis\playbrian\verif301\oscillator\verification\sim_oscillator_crude32k.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map osc 13
.node_map SIMPV 11
.node_map ok_oscillator 15
.node_map enable_oscillator 12
.node_map standby_clock 14
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar VIN=5
.globalvar tdext_khz=1000


X$oscillator_crude32k 15 14 11 12 13 oscillator_crude32k
** From Z:\celera\projects\Simplis\playbrian\verif301\oscillator\verification\FORCE_oscillator_crude32k.sxcmp


** From Z:\celera\projects\Simplis\playbrian\verif301\oscillator\design\oscillator_crude32k.sxcmp
.subckt oscillator_crude32k 24 29 27 26 28
*#hierarchy
.node_map ok_oscillator_delay 25
.node_map osc 28
.node_map SIMPV 27
.node_map ok_oscillator 24
.node_map enable_oscillator 26
.node_map standby_clock 29
X$get_ok_driver_delay 26 24 25 VESPAdftpulse
X$IXosccrude 24 27 28 20 21 22 26 23 29 oscillatorcrude vars: osc_type='crude' osc_accuracy='no' osc_datasheet_accuracy_name='text' osc_datasheet_accuracy_description='text' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='1' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_bias='global' osc_int_freq=1K osc_int_duty=50 osc_int_ireplica_gain=10 osc_int_1=0 osc_ext_freq=1K osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=32 osc_crude_generatesupply=5.0 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$OSC 28 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSC' dftprobe_description='OSC_output' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OSCok 24 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCok' dftprobe_description='OSC_ok' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$OSCok_delay 25 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='OSCok_delay' dftprobe_description='OSC_ok_Delay' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$U11 24 pinprobe vars: pinprobe_description=' pinprobe_mode='outputput' pinprobe_input='tbd' pinprobe_output='tbd'
X$U16 29 pinprobe vars: pinprobe_description=' pinprobe_mode='input' pinprobe_input='service' pinprobe_output='tbd'
X$U20 27 pinprobe vars: pinprobe_description=' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U24 26 pinprobe vars: pinprobe_description=' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U28 28 pinprobe vars: pinprobe_description=' pinprobe_mode='outputput' pinprobe_input='tbd' pinprobe_output='tbd'
.ends oscillator_crude32k

** From Z:\celera\simplis\LIB\VESPA\VESPAdftpulse.sxcmp
.subckt VESPAdftpulse 7 8 9
*#hierarchy
.node_map start 7
.node_map stop 8
.node_map pulse 9
X$U11 7 pinprobe vars: pinprobe_description='DFT_timer_start_input'
X$U15 8 6 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U17 8 pinprobe vars: pinprobe_description='DFT_timer_stop_input'
X$U52 7 4 6 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U53 4 5 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U55 9 5 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U8 9 pinprobe vars: pinprobe_description='DFT_Timer_pulse'
.ends VESPAdftpulse

.end
